US06555556B1
Ethyl 5-Nitrosalicylate
To a solution of 5-nitrosalicylic acid (10.8 g) in ethanol (100 ml) was added concentrated sulfuric acid (92.0 g) at room temperature and the mixture was heated under reflux for 7.5 hours. After neutralization with aqueous sodium hydroxide, the reaction mixture was extracted with ethyl acetate. The extractant was washed with saturated aqueous sodium hydrogencarbonate, 0.5M hydrochloric acid and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to give the desired compound (10.7 g, yield 85%) as a yellow solid.

reactant | 5-nitrosalicylic acid | 10.8 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | sulfuric acid | 92.0 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-Nitrosalicylate | 10.7 g, yield 85% | [N+](=O)([O-])C1=CC=C(C(C(=O)OCC)=C1)O | C9H9NO5
